US06248746B1
a) (3,4-Methylenedioxybenzyl)urea
61.5 ml of 5N HCl was added within 30 minutes to a stirred emulsion of 38.51 ml (300 mM) of 97% piperonylamine and 20.40 g of sodium cyanate in 500 ml of water. After stirring overnight the foamy solid is collected, dried, suspended in 500 ml of ether and collected again: 52.57 g (90.2%) of urea with a melting point of 183-84° C.

reactant | HCl | 5N, 61.5 ml | Cl | ClH
reactant | piperonylamine | 300 mM, 38.51 ml | C(C1=CC=2OCOC2C=C1)N | C8H9NO2
reactant | sodium cyanate | 20.40 g | [O-]C#N.[Na+]
solvent | water | 500 ml | O | H2O
product | (3,4-Methylenedioxybenzyl)urea | C1OC=2C=C(CNC(=O)N)C=CC2O1 | C9H10N2O3
